Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dysmenorrhea, left lower quadrant pain, known left ovarian cyst
 
Major Surgical or Invasive Procedure:
laparoscopic right salpingectomy, excision of right paratubal 
cyst, left salpingo-oophorectomy, excision of endometriosis, and 
Paragard IUD removal 

 
History of Present Illness:
she is a lovely ___ G2 P1 011 (VD ×1, TAB ×1)
premenopausal ___ female with
hypercholesterolemia, SVT, MVR/TR, migraines without aura, GERD,
vit D deficiency and h/o benign L chest "tumor" s/p L "chest
surgery" in ___ (___) and D&C (TAB age ___.  On review of the
patient's presentation, she reports, she reports LLQ pain and
dysmenorrhea for the last ___ years (since ___ in ___.  She was
evaluated in the OB/GYN resident clinic and underwent a pelvic
ultrasound which was negative.  She was presumptively treated 
for
PID although all cultures were negative.  Of note, multiple 
tests
were negative for chlamydia and gonorrhea in ___ and repeat STD
testing in ___ have all been negative as well.

On review of her menstrual history, she reports regular menses 
at
one-month intervals with 7 days of moderate flow.  She has
ongoing dysmenorrhea which manifests predominately with LLQ that
begins 1 week prior to the onset of menses.  The LLQ pain is the
pain she reported since ___.  She also describes dyspareunia
with deep penetration.  Over the last ___ years, her LLQ pain has
persisted and at its worst climaxes to roughly 8 out of 10 pain
and when mild is probably 3 out of 10 pain.  She denies nausea 
or
vomiting, hematochezia or hematuria.  Of note, she did undergo
pelvic ultrasound in ___ with the onset of LLQ pain, which was
noted to be unremarkable.  She never had a laparoscopy to rule
out the possibility endometriosis.  Subsequently, during a visit
in ___, the patient underwent a pelvic ultrasound given her
complaints of persistent pelvic pain and was noted to have a 
left
ovarian cyst.  Unfortunately, that pelvic ultrasound report is
not available for my review today.  Upon her return from ___,
the patient had a pelvic ultrasound in the ___ in ___ and ___ at which time a complex left ovarian cyst was noted.  She
has been surveillance over the last ___ year and a left ovarian
cyst increased in size from 3.4 cm to 3.8 cm to 6.4 cm  Over the
past year.

WORKUP
- LABS (___) CA-125 elev at 56, CEA 1.2 WNL, no recent CBC
(___) CBC drawn today normal, nl HCT 38.9, FSH 31, TSH 1.7 
- PUS (___) at ___: AV UT 10.5 x 5.6 x 4.7 cm, 
homogeneous
EMS 7 mm, IUD within endometrial cavity in the correct position. 

Normal right ovary.  6.4 x 5.5 x 4.2 cm complex left ovarian 
cyst
with 2.1 cm echogenic component.  No vascularity within this
lesion.  No free fluid.
- STD testing (___) at ___: NEG w/ HIV ab neg, HCV
ab neg, HPV neg, GC/CT neg, RPR neg.
- PAP (___): Negative SIL

The patient was advised by yourself to undergo surgical
management given the increasing left adnexal mass size and
ongoing pain symptoms and they laparoscopic LSO and RS was
advised for surgical treatment of her left adnexal cyst and
permanent sterilization given her contraceptive needs.  The
patient presents today to discuss potential surgical management
of her left ovarian cyst and ongoing pain symptoms.  She has no
other gynecologic complaints today.  

 
Past Medical History:
OBSTETRIC HISTORY: G2 ___.  Age ___, first trimester TAB
2.  ___, full-term vaginal delivery of 40 week gestation male
infant no complications

GYNECOLOGIC HISTORY:  
- Menarche age ___, LMP ___
- Regular periods every month ×7 days moderate flow, reports
significant dysmenorrhea manifesting with LLQ pain that begins 1
week before the onset of menses.  Also reports dyspareunia but
denies any other specific symptoms such as N/V, hematochezia, or
hematuria.
- Pt is sexually active, heterosexual.
- Contraception: Copper T IUD (inserted ___
- STD History: Denies, although she has been treated for PID in
the past for LLQ pain

GYN HEALTHCARE MAINTENANCE:
- Last PAP (___): Negative SIL, HPV negative.
- Denies h/o abnormal PAPs. 
- Last mammogram (___): Reportedly negative, Results NA for 
my
review.

MEDICAL PROBLEMS:  
1.  SVT, on metoprolol
2.  Mitral valve regurgitation, tricuspid regurgitation, 
followed by Dr. ___,  cardiologist at ___
3.  Migraines without aura, evaluated here at ___ neurology
4.  GERD
5.  Hypercholesterolemia
6.  Vitamin D deficiency
7.  6.4 cm complex L adnexal cyst, undergoing current evaluation
7.  Dysmenorrhea/LLQ pain, rule endometriosis
8.  Desires contraception, copper T IUD inserted ___

SURGICAL HISTORY:  
1.  Age ___, D&C for first trimester D&C
2.  ___, left chest surgery in ___ for benign tumor.  Patient
uncertain of exact diagnosis or procedure.
Note: No prior abdominal surgeries

 
Social History:
___
Family History:
FAMILY HISTORY:
- Family h/o gynecologic cancers: Denies.
- Denies any family medical conditions.
 
Physical Exam:
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incisions 
clean, dry, intact
GU: a few <1.5 inch scattered bruises on inner thighs/groin, 
bilaterally (left greater than right) in area of drape adhesive 
- outlined with purple marking post operative day #0, receded 
slightly since marking
Ext: no TTP
 
Pertinent Results:
___ 09:09AM BLOOD WBC-8.8 RBC-3.44* Hgb-10.4* Hct-31.8* 
MCV-92 MCH-30.2 MCHC-32.7 RDW-11.9 RDWSD-40.3 Plt ___
___ 04:47AM BLOOD WBC-10.9*# RBC-3.27* Hgb-10.0* Hct-30.5* 
MCV-93 MCH-30.6 MCHC-32.8 RDW-11.9 RDWSD-40.3 Plt ___
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service after 
undergoing laparoscopic right salpingectomy, excision of right 
paratubal cyst, left salpingo-oophorectomy, excision of 
endometriosis and Paragard IUD removal. Please see the operative 
report for full details.

Her post-operative course was as follows:  
Immediately post-op, her pain was controlled with PO Tylenol and 
oxycodone.  She voided a couple small voids in the PACU, but 
subsequently developed urinary retention.  She had her foley 
replaced for 800 cc's of urine. She complained of dizziness in 
the PACU - a CBC was checked, and her hematocrit was noted to 
have dropped to 30 (from 36 pre-op).  Vital signs and abdominal 
exam were stable, with low concern for active bleeding.  
Hematocrit was rechecked 6 hours later and was stable at 32.  
Orthostatics were negative.  Her symptoms improved.  

On post operative day #1, she complained of bilateral shoulder 
pain, with radiation of her left shoulder pain to her left 
chest.  An EKG was done that came back normal sinus rhythm.  
This pain was thought to be most likely referred from abdominal 
insufflation in the OR, and improved with pain medications.  On 
post-operative day 1, her urine output was adequate so her foley 
was removed and she voided spontaneously with appropriately low 
post void residual (voided 250 cc's, PVR<100). Her diet was 
advanced without difficulty.

For her pyosalpinx noted intraoperatively, she was started on IV 
doxycycline intraoperatively with a plan for a 5 day 
postoperative course of doxycycline.

Her home metoprolol, which she takes for her SVT, was held in 
the setting of low blood pressures (80's-90's/40___).  Her 
heart rates were normal during her stay, and she was 
asymptomatic from a SVT standpoint.  Per Dr. ___ 
cardiologist), she was instructed to hold her metoprolol for one 
week post operatively in the setting of these low blood 
pressures, and to follow up with cardiology or with her primary 
care physician to discuss restarting.  

For her history of GERD, she was continued on her home 
omeprazole.  

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
metoprolol XR 25mg', atorvastatin 20mg', aspirin 81mg', 
omeprazole 20mg'

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID:PRN constipation  
3.  Doxycycline Hyclate 100 mg PO Q12H  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
endometriosis, left ovarian cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

You were discharged home with prescriptions for pain medication 
(oxycodone, Tylenol), an antibiotic (doxycycline) to take for 5 
days, as well as a stool softener.  You should take Tylenol 
first for pain, and the oxycodone only as needed for severe 
pain.  

You had some low blood pressures here.  You should NOT take your 
metoprolol for ONE WEEK.  You should follow up with your 
cardiologist, Dr. ___ your primary care doctor in one 
week to have them check your blood pressure and decide if it is 
okay to restart the metoprolol.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina for 4 weeks
* No heavy lifting of objects >10 lbs for 3 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___